US05880305
Preparation of the starting compound Si[(CH2)2Si(CH3)2Cl]4
Under argon, 234.2 g (2.475 mol) chlorodimethyl silane, 500 ml TBME and 1.5 g catalyst 1 were added to 75 g (0.550 mol) tetravinyl silane. The reaction mixture was heated, with vigorous stirring, to 45° C. until an exothermic reaction set in and the temperature rose to 51° C. A mixture comprising 525 g (3.853 mol) tetravinyl silane, 1639.4 g (17.327 mol) chlorodimethyl silane and 940 ml TBME was then added slowly dropwise, wherein care was taken that the reaction temperature did not fall below 50° C. Stirring was then continued for 1.5 hours under reflux, the reaction mixture was cooled to room temperature, the catalyst was filtered off over a frit, and volatile constituents were removed from the colourless solution under vacuum. The product took the form of a white solid. Yield: 2120.8 g (94% of theoretical yield).

reactant | chlorodimethyl silane | 2.475 mol, 234.2 g | Cl[SiH](C)C | C2H7ClSi
reactant | tetravinyl silane | 0.550 mol, 75 g | C(=C)[Si](C=C)(C=C)C=C | C8H12Si
reactant | tetravinyl silane | 3.853 mol, 525 g | C(=C)[Si](C=C)(C=C)C=C | C8H12Si
reactant | chlorodimethyl silane | 17.327 mol, 1639.4 g | Cl[SiH](C)C | C2H7ClSi
solvent | TBME | 940 ml | CC(C)(C)OC | C5H12O
solvent | TBME | 500 ml | CC(C)(C)OC | C5H12O
product | Si[(CH2)2Si(CH3)2Cl]4 | [Si](CC[Si](C)(C)Cl)(CC[Si](C)(C)Cl)(CC[Si](C)(C)Cl)CC[Si](C)(C)Cl | C16H40Cl4Si5
